US07648989B2
Preparation of (2-Bromo-5-nitro-pyridin-4-yl)-acetic acid ethyl ester
2-Bromo-5-nitropyridine (1.84 g, 9.06 mmol) and trimethylsilanyl-acetic acid ethyl ester (1.53 g, 9.52 mmol) are dissolved under an atmosphere of argon in dry THF (10 ml). After cooling to −78° C., a solution of tetrabutylammonium fluoride (TBAF, 2.37 g, vacuum-dried overnight) in a mixture of THF and acetonitrile (10 ml/10 ml) is slowly added, so that the reaction temperature did not rise above −65° C. After complete addition, the mixture is stirred at −40° C. for 30 minutes, and at −20° C. for 10 minutes. The reaction mixture is re-cooled to −78° C., and 2,3-dichloro-5,6-dicyano-p-benzochinone (DDQ, 2.06 g, 9.06 mmol) is added. The suspension is allowed to warm to RT. TLC analysis indicated complete conversion. The reaction mixture is diluted with EtOAc and poured into a saturated solution of NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the solvent is evaporated. The residue is purified by FCC (toluene/EtOAc 100:0 to 97:3) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.26 (t, J=7 Hz, 3H), 4.01 (s, 2H), 4.19 (q, J=7 Hz, 2H), 7.53 (s, 1H), 9.06 (s, 1H). ES−−MS: 287, 289 [M−H]−.

reactant | 2-Bromo-5-nitropyridine | 9.06 mmol, 1.84 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | trimethylsilanyl-acetic acid ethyl ester | 9.52 mmol, 1.53 g | C(C)OC(C[Si](C)(C)C)=O | C7H16O2Si
reactant | tetrabutylammonium fluoride | 2.37 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Bromo-5-nitro-pyridin-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=NC=C1[N+](=O)[O-])Br)=O | C9H9BrN2O4
